data/mechanisms/records/IMS8-EQ8.61.json
{"mechanism_id": "IMS8-EQ8.61", "species": [{"species_id": "dimethylpiperidine_molecular_ion", "mapped_smiles": "[CH3:8][CH:2]1[CH2:3][CH2:4][CH2:5][CH2:6][N+:1]1[CH3:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "cyclic_immonium_98", "mapped_smiles": "[CH3:7][N+:1]1=[CH:2][CH2:3][CH2:4][CH2:5][CH2:6]1", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "methyl_radical", "mapped_smiles": "[CH3:8]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "dienyl_immonium_70", "mapped_smiles": "[CH2:6]=[N+:1]([CH3:7])[CH:2]=[CH2:3]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "ethylene_neutral", "mapped_smiles": "[CH2:4]=[CH2:5]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["dimethylpiperidine_molecular_ion"]}, {"state_id": "state_immonium", "species_ids": ["cyclic_immonium_98", "methyl_radical"]}, {"state_id": "state_products", "species_ids": ["dienyl_immonium_70", "ethylene_neutral", "methyl_radical"]}], "steps": [{"step_id": "step_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_immonium", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 8]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 8]}, "target": {"type": "atom", "atom_maps": [8]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_retro_diels_alder", "from_state": "state_immonium", "to_state": "state_products", "step_class": "retro_diels_alder", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 3]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "bond", "atom_maps": [1, 6]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_alpha_8_61", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 186, "equation": "8.61", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures (two bonds cleaved)"}, "confidence": 0.9, "curator_note": "Substrate is the 1,2-dimethylpiperidine molecular ion: the page prints '+.' on the ring nitrogen, so the precursor mapped_smiles localizes both the charge and the odd electron on N(1) (three sigma bonds on N+ leave one unpaired electron), exactly as drawn. Book draws 2 arc(s); moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). Drawn arc 1 = a fishhook from the odd electron printed on N(1) into the N(1)-C(2) bond; drawn arc 2 = a fishhook from the C(2)-CH3(8) sigma bond into that same N(1)-C(2) bond, which therefore rises from single to double (immonium). The undrawn move 3 carries the second electron of the cleaved C(2)-CH3 bond onto C(8); the book simply writes CH3 off the page and prints the resulting (M-CH3)+ ion. Note the methyl that leaves is the RING-carbon methyl on C(2), not the N-methyl C(7), which is retained in the m/z 98 ion as drawn. Map numbers: 1 = N, 2 = C2 (alpha ring carbon), 3-6 = ring C3..C6, 7 = N-methyl (retained), 8 = C2-methyl (expelled)."}, {"evidence_id": "evidence_step_rda_8_61", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_retro_diels_alder", "support_type": "textbook_proposed", "locator": {"page": 186, "equation": "8.61", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures (two bonds cleaved)"}, "confidence": 0.85, "curator_note": "Book draws 3 arc(s) on the m/z 98 structure; moves <1,2,3> are ALL drawn and no implicit hook is needed - this is an even-electron retro-Diels-Alder, i.e. a three-arrow cyclic two-electron flow, and every arrowhead on the page is a full (double-barbed) head, hence electron_count 2 throughout. Drawn arc 1 = the N(1)=C(2) pi pair sliding to C(2)=C(3); drawn arc 2 = the C(3)-C(4) sigma pair becoming the C(4)=C(5) pi bond of the expelled ethylene; drawn arc 3 = the C(5)-C(6) sigma pair becoming the new N(1)=C(6) pi bond. Net: the C(3)-C(4) and C(5)-C(6) ring bonds break and CH2=N+(CH3)-CH=CH2 (m/z 70) plus CH2=CH2 are formed, exactly the two structures drawn to the right. HONEST LABEL NOTE: the arrow on the page is labelled with a single italic 'i' (McLafferty's charge-site/inductive initiation), while the running text on the same page calls this an 'RDA decomposition'; step_class is set from the text (retro_diels_alder) and the printed 'i' is recorded here rather than silently dropped. The expelled CH3 radical of the first step is carried through this state as a spectator so that the step stays atom- and electron-balanced."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 113.1199, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_98", "species_id": "cyclic_immonium_98", "step_id": "step_alpha_cleavage", "observed_mz": 98.0964, "relative_intensity": 1.0, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.9}, {"peak_id": "peak_70", "species_id": "dienyl_immonium_70", "step_id": "step_retro_diels_alder", "observed_mz": 70.0651, "relative_intensity": 0.12, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
